US07893069B2
4.1 g (3.5 mmol) tetrakis(triphenyl)phosphine-palladium(0), 17.2 g (175.4 mmol) trimethyl-silylacetylene and 7.9 g (70.2 mmol) 1,4-diazabicyclo[2.2.2]octane were consecutively added to a suspension of 12.5 g (35.1 mmol) 6-(5-bromothiophene-2-yl)-N-tert-butylimidazo[2,1-b]thiazole-5-amine in acetonitrile (150 ml). The reaction solution was heated for 72 h under reflux and subsequently concentrated in a vacuum. 3.0 g (7.9 mmol, 23%) N-tert-butyl-6-(5-((trimethylsilyl)ethynyl)thiophene-2-yl)imidazo[2,1-b]thiazole-5-amine ([MH+] 374.1) was obtained by CC (DCM/AE 95:5).

reactant | trimethyl-silylacetylene | 175.4 mmol, 17.2 g | C[Si](C#C)(C)C | C5H10Si
reactant | 1,4-diazabicyclo[2.2.2]octane | 70.2 mmol, 7.9 g | N12CCN(CC1)CC2 | C6H12N2
reactant | 6-(5-bromothiophene-2-yl)-N-tert-butylimidazo[2,1-b]thiazole-5-amine | 35.1 mmol, 12.5 g | BrC1=CC=C(S1)C=1N=C2SC=CN2C1NC(C)(C)C | C13H14BrN3S2
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N-tert-butyl-6-(5-((trimethylsilyl)ethynyl)thiophene-2-yl)imidazo[2,1-b]thiazole-5-amine | 7.9 mmol, 3.0 g, 23% | C(C)(C)(C)NC1=C(N=C2SC=CN21)C=2SC(=CC2)C#C[Si](C)(C)C | C18H23N3S2Si
